US04547581
9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-acetic acid ethyl ester
To 20 ml of diethylmalonate was added 1.9 g (16.8 mmol) of potassium tertiary butoxide with stirring under nitrogen, and after 15 min, 2.0 g (5.59 mmol) of 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine was added. The reaction was kept at 110° C. for 2 hr and 140° C. for 4 hr. Ice was added to the reaction mixture which was then acidified with concentrated hydrochloric acid, and extracted with 100 ml of ether. The ether layer was extracted with 25 ml of 3N hydrochloric acid, and the combined acid layers were made basic with ammonium hydroxide and extracted with ether (2×100 ml). The solution was dried, charcoal filtered and concentrated to a small volume. Petroleum ether was added and the product was filtered and recrystallized from the same solvents to give white rods, mp 98°-103° C.

reactant | potassium tertiary butoxide | 16.8 mmol, 1.9 g | CC(C)([O-])C.[K+]
reactant | 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | 5.59 mmol, 2.0 g | ClC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F | C18H10Cl2FN3
reactant | hydrochloric acid | Cl | ClH
reactant | diethylmalonate | 20 ml | C(C)C(C(=O)[O-])(C(=O)[O-])CC
product | 9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-acetic acid ethyl ester | C(C)OC(CC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F)=O | C22H17ClFN3O2
